US08003806B2
3-{6-[(3-Bromo-2,6-dimethoxybenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
Using the procedure of Preparation 21, the title compound (24 mg) was prepared from ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate and 3-bromo-2,6-dimethoxybenzoic acid, and purified by RP-HPLC. [LCMS (Method A, Mobile Phase I) RT=4.43 min, MH+ 526].

reactant | ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | NC=1C=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C1 | C18H19N3O2
reactant | 3-bromo-2,6-dimethoxybenzoic acid | BrC=1C(=C(C(=O)O)C(=CC1)OC)OC | C9H9BrO4
product | 3-{6-[(3-Bromo-2,6-dimethoxybenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | 24 mg | BrC=1C(=C(C(=O)NC=2C=CC3=C(N(C=N3)C(CC(=O)O)C3=CC=CC=C3)C2)C(=CC1)OC)OC | C25H22BrN3O5
